US06362341B1
Synthesis of N-(Toluene-4-sulfonyl)-L-prolyl-L-phenylalanine Benzyl Ester
N-(Toluene-4-sulfonyl)-L-proline was coupled to L-phenylalanine benzyl ester toluenesulfonic acid salt using the procedure described in Method 3 to give the title compound as an oil.

reactant | N-(Toluene-4-sulfonyl)-L-proline | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)O)CCC1)C | C12H15NO4S
reactant | L-phenylalanine benzyl ester toluenesulfonic acid salt | C=1(C(=CC=CC1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC([C@@H](N)CC1=CC=CC=C1)=O
product | N-(Toluene-4-sulfonyl)-L-prolyl-L-phenylalanine Benzyl Ester | C(C1=CC=CC=C1)OC([C@@H](NC([C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)=O)CC1=CC=CC=C1)=O | C28H30N2O5S
